data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_285598_0,[C:1]([N:4]([C:5](=[C:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[N:7]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:5](/[C:6]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[H:8])[N:7]([H:9])[H:10])([H:11])([H:12])[H:13],50.19623500003519
MR_569335_1,[C:1](/[C:3](=[C:5]([C:2](=[C:6](/[N:4]([H:11])[H:12])[H:14])\[O:7][H:9])/[H:13])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([C@@:3]1([O:8][H:10])[C:5]([H:13])=[C:2]([O:7][H:9])[C@@:6]1([N:4]([H:11])[H:12])[H:14])([H:15])([H:16])[H:17],40.07465999997919
MR_28006_0,[C:1]1([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])[O:7][C:5]([C:4]([H:16])([H:17])[H:18])=[C:6]([H:9])[O:8]1>>[C:1]1([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])[C@@:5]([C:4]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:9])[O:7]1,46.2592999999876
MR_458371_1,[C:1]1([O:6][H:8])([H:11])[C:2]([H:12])([H:13])[N:4]([H:10])[C:5](=[O:7])[N:3]1[H:9]>>[C:1](\[C:2]([N:4]([C:5]([O:6][H:8])=[O:7])[H:10])([H:12])[H:13])(=[N:3]/[H:9])[H:11],68.82608250001141
MR_510302_1,[C:1]([C:2]([O:6][H:11])=[O:7])([C:3](=[O:8])[H:12])([O:4][H:9])[O:5][H:10]>>[C:1](=[C:2]([O:6][H:11])[O:7][C:3](=[O:8])[H:12])([O:4][H:9])[O:5][H:10],52.41193750000548
MR_585587_0,[C:1](/[C:4]([N:2]([C:6](=[O:8])[H:13])[H:10])=[C:3](\[N:5]([H:11])[H:12])[O:7][H:9])([H:14])([H:15])[H:16]>>[C:1]([C@:4]1([C:6](=[O:8])[H:13])[N:2]([H:10])[C@@:3]1([N:5]([H:11])[H:12])[O:7][H:9])([H:14])([H:15])[H:16],71.72073999997963
MR_357023_0,[C:1](=[C:3]([H:14])[H:15])([N:5]([C:2]([C:4]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[H:11])[O:8][H:10])[O:7][H:9]>>[C:1]1([O:7][H:9])([O:8][H:10])[C:3]([H:14])([H:15])[N:5]1[C:2]([C:4]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[H:11],54.46260750000008
MR_349475_1,[C:1]([C:4](=[C:3](/[N:5]([H:10])[H:11])[O:7][H:9])/[N:8]=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[N:8][C:6]([C:2]([H:16])([H:17])[H:18])([H:12])[C:3]1([N:5]([H:10])[H:11])[O:7][H:9])([H:13])([H:14])[H:15],45.04697000001656
MR_232156_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6](=[C:5](\[C:3]([H:18])([H:19])[H:20])[O:8][H:9])[N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([C:2]([H:15])([H:16])[H:17])[C:6]1([C:5]([C:3]([H:18])([H:19])[H:20])([O:8][H:9])[H:10])[N:7]([H:11])[H:12],62.111204999986285
MR_10568_0,[C:1]([C:3](/[C:5](=[C:4](/[O:7][H:8])[H:9])[H:10])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:10])[C@@:4]([O:7][H:8])([H:9])[C@:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],37.33813250000409
MR_264617_1,[N:1](/[C:4](=[C:3](\[N:6]=[C:2](/[O:5][H:7])[H:10])[H:11])[H:12])([H:8])[H:9]>>[N:1]([C:4]1([H:12])[C:2]([O:5][H:7])([H:10])[N:6]=[C:3]1[H:11])([H:8])[H:9],72.15371500002789
MR_196238_0,[C:1]1([C:3]([H:10])([H:11])[H:12])([C:7]([C:6]([H:19])([H:20])[H:21])=[O:9])[C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:13])([H:17])[H:18])[O:8]1>>[C:1]1([C:3]([H:10])([H:11])[H:12])=[C:7]([C:6]([H:19])([H:20])[H:21])[O:9][C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:13])([H:17])[H:18])[O:8]1,41.30016749998831
MR_518405_0,[C:1]([C:2](/[C:4](=[N:7]\[H:14])[H:15])([O:6][H:9])[H:11])([N:3]([H:12])[H:13])([O:5][H:8])[H:10]>>[C:1]([C:2]([C:4]([N:7]([H:8])[H:14])([H:10])[H:15])([O:6][H:9])[H:11])([N:3]([H:12])[H:13])=[O:5],67.47256500000447
MR_490479_1,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([N:6]=[O:7])[H:10])([N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])[H:9]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:5](=[O:8])[H:13])[H:10])([N:4]([H:11])[H:12])([N:6]=[O:7])[H:9],65.98915500000444
MR_380894_0,[C:1](\[O:3][H:6])(=[N:4]/[N:5]=[C:2]([H:8])[H:9])[H:7]>>[C:1]1([O:3][H:6])([H:7])[C:2]([H:8])([H:9])[N:5]=[N:4]1,42.696354999994526
MR_16269_0,[C:1]([N:4]([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])([C:8](=[C:5]([N:6]([H:11])[H:12])[N:7]([H:9])[H:10])[H:15])([H:13])[H:14]>>[C:1](=[C:8]([C:5]([N:4]([C:2]([H:17])([H:18])[H:19])[C:3]([H:16])([H:20])[H:21])([N:6]([H:11])[H:12])[N:7]([H:9])[H:10])[H:15])([H:13])[H:14],61.93487750000344
MR_258453_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:6]([H:17])[H:18])[N:8]=[C:5]([H:15])[H:16])([N:4]([H:10])[H:11])[O:7][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:4]([H:10])[H:11])[C:3]([O:7][H:9])([N:8]=[C:5]([H:15])[H:16])[C:6]1([H:17])[H:18],52.54245750003264
MR_159750_2,[C@:1]([N:3]([H:9])[H:10])(/[C:4](=[C:6](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:11])([C:5](=[C:7]([H:17])[H:18])[H:12])[H:8]>>[C@:1]1([N:3]([H:9])[H:10])([H:8])[C@:4]([C:5](=[C:7]([H:17])[H:18])[H:12])([H:11])[C@:6]1([C:2]([H:14])([H:15])[H:16])[H:13],64.71846750000239
MR_698934_2,[C:1]([C@:2]([N:7]([H:18])[H:19])([O:8][N:3]([H:10])[H:11])[H:9])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[N:6]([H:16])[H:17]>>[C:1]([C:2]([N:6]([H:16])[H:17])([N:7]([H:18])[H:19])[H:9])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:8][N:3]([H:10])[H:11],71.82113999997583
